US08357635B2
To a stirred solution of trans 1-[2-(2-chloro-6-fluoro-phenyl)-cyclopropyl]-ethanone O-methyl-oxime (1.1 g; 4.6 mmol) prepared as described in example P21, in acetic acid (10 ml) at ambient temperature was added portionwise sodium cyanoborohydride (0.60 g; 9.3 mmol). The reaction mixture was stirred for 16 hours at ambient temperature then poured in sodium hydrogen carbonate saturated solution (50 ml) and extracted with dichloromethane (3×50 ml). Combined organic layers were dried over anhydrous sodium sulphate. The solvent was removed in vacuo and the residue was purified by flash chromatography over silica gel (elution gradient: cyclohexane/ethyl acetate 99:1 to 1:99) to afford 0.85 g (75% of theory) of trans N-{1-[2-(2-chloro-6-fluoro-phenyl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine as a mixture of diastereomeres in form of a clear viscous oil.

reactant | trans 1-[2-(2-chloro-6-fluoro-phenyl)-cyclopropyl]-ethanone O-methyl-oxime | 4.6 mmol, 1.1 g | CON=C(C)[C@H]1[C@@H](C1)C1=C(C=CC=C1F)Cl | C12H13ClFNO
reactant | sodium cyanoborohydride | 9.3 mmol, 0.60 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
product | trans N-{1-[2-(2-chloro-6-fluoro-phenyl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine | 0.85 g, 75% | ClC1=C(C(=CC=C1)F)[C@H]1[C@@H](C1)C(C)NOC | C12H15ClFNO
